US07622492B2
Di-tert-butyl dicarbonate (4.40 g, 20.2 mmol) was added in one portion to a cooled (0° C.) solution of triethylamine (8.3 mL, 59.6 mol) and 2-fluorophenylhydrazine hydrochloride (3.00 g, 18.5 mmol) in methanol (50 mL). The reaction mixture was stirred at 0° C. for 10 min, and at room temperature for 2 h. The solvent was evaporated and ethyl acetate (100 mL) was added. The solution was washed with water (2×25 mL) and brine (25 mL). The organic phase was dried (sodium sulfate), filtered, evaporated, and co-evaporated with hexane. A solution of 5% ethyl acetate/hexane (25 mL0 was added to the resulting gummy yellow solid and the mixture was stirred at room temperature for 20 min and then in an ice-bath at 0° C. for 1 h. The solid was filtered off, washed with hexane, and dried to give N′-(2-fluoro-phenyl)-hydrazinecarboxylic acid tert-butyl ester (2.97 g, 71%) as a pale yellow solid.

reactant | Di-tert-butyl dicarbonate | 20.2 mmol, 4.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 59.6 mol, 8.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluorophenylhydrazine hydrochloride | 18.5 mmol, 3.00 g | Cl.FC1=C(C=CC=C1)NN
solvent | methanol | 50 mL | CO | CH4O
product | N′-(2-fluoro-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 2.97 g, 71% | C(C)(C)(C)OC(=O)NNC1=C(C=CC=C1)F | C11H15FN2O2
